US05434124
2-Chlorosulfonylphenyl methanesulfonate
A diazonium salt solution, prepared by simultaneously introducing a solution of 39.5 g (0.57 mol) of sodium nitrite in 60 ml of water and 105 g (0.57 mol) of 2-aminophenyl methanesulfonate into 200 ml of concentrated hydrochloric acid at 0°-5° C. and stirring for 1 hour at 0° C., was added dropwise at 0°-10° C. to a solution, saturated with sulfur dioxide, of 1.7 g of CuCl2 and 4.5 g of benzyltriethylammonium chloride in 200 ml of 1,2-dichloroethane and 10 ml of water. The means of cooling were removed and stirring was carried out for 30 minutes at 25° C. and then, while slowly increasing the temperature of the reaction mixture, for a further hour at 50° C. The organic phase was separated off, washed with ice water and dried over Na2SO4. After removal of the solvent, an oily residue remained and could be crystallized by trituration with a little methanol. This gave 139 g (90% of theory) of the title compound of melting point 94°-95° C.

reactant | sodium nitrite | 0.57 mol, 39.5 g | N(=O)[O-].[Na+]
reactant | 2-aminophenyl methanesulfonate | 0.57 mol, 105 g | CS(=O)(=O)OC1=C(C=CC=C1)N | C7H9NO3S
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 60 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 4.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | water | 10 ml | O | H2O
product | 2-Chlorosulfonylphenyl methanesulfonate | CS(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO5S2
